US07432279B2
In a microwave vial, 4-chloro-6-fluoro-1,7-naphthyridine-3-carbonitrile (1.25 g, 6.02 mmol, prepared as described in Wissner et. al., Bioorg. Med. Chem. Lett., 14, 2004, 1411-1416) and 3-chloro-4-fluoroaniline (0.96 g, 6.6 mmol) were taken up in DME. The vial was crimp-sealed and heated in a microwave reactor at 140° C. for 10 minutes. This was repeated with a second batch of reagents. The contents of the two vials were transferred together to a separatory funnel and partitioned between EtOAc and 5% Na2CO3, and the aqueous layer extracted two additional times with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous MgSO4, filtered and evaporated to give 4-(3-chloro-4-fluorophenylamino)-6-fluoro-1,7-naphthyridine-3-carbonitrile of sufficient purity to be used directly in the next step (3.78 g, 99% yield): 1H NMR (400 MHz, DMSO-D6) δ 7.32-7.49 (m, 1 H) 7.53 (t, J=9.0 Hz, 1 H) 7.72 (dd, J=6.3, 2.3 Hz, 1 H) 8.16 (s, 1 H) 8.69 (s, 1 H) 9.08 (s, 1 H) 10.14 (s, 1 H).

reactant | 4-chloro-6-fluoro-1,7-naphthyridine-3-carbonitrile | 6.02 mmol, 1.25 g | ClC1=C(C=NC2=CN=C(C=C12)F)C#N | C9H3ClFN3
reactant | 3-chloro-4-fluoroaniline | 6.6 mmol, 0.96 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | DME | COCCOC | C4H10O2
product | 4-(3-chloro-4-fluorophenylamino)-6-fluoro-1,7-naphthyridine-3-carbonitrile | 99% yield | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
